US07678798B2
6-(Trifluoromethyl)-1H-indene
A mixture of 5-(trifluoromethyl)indan-1-ol (1.6 g, 7.9 mmol) and p-toluenesulfonic acid (0.02 g, 0.1 mmol) in toluene (20 mL) was refluxed through a Dean-Stark trap for about 3 h. The solution was concentrated in vacuo and the residue was purified by flash chromatography on silica eluting with 5% EtOAc/hexane to afford the desired product as an oil (1.4 g, 96%).

reactant | 5-(trifluoromethyl)indan-1-ol | 7.9 mmol, 1.6 g | FC(C=1C=C2CCC(C2=CC1)O)(F)F | C10H9F3O
reactant | p-toluenesulfonic acid | 0.1 mmol, 0.02 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(Trifluoromethyl)-1H-indene | 1.4 g, 96% | FC(C1=CC=C2C=CCC2=C1)(F)F | C10H7F3
